US06518273B1
4-(2-Methoxyphenyl) 1-[3-(5-methyl-1H-indol-3-yl)-1-oxopropyl]piperazine
Prepared from 5-methyl-1H-indole-3-propanoic acid (Description 24) and-(2-methoxyphenyl)piperazine hydrochloride according to the method of Description 25. 1H NMR (360 MHz, CDCl3) δ7.89 (1H, br s), 7.40 (1H, s), 7.24 (1H, d, J 8.3 Hz), 7.04-7.00 (3H, m), 6.94-6.81 (3H, m), 3.86 (3H, s), 3.81 (2H, t, J 5.0 Hz), 3.53 (2H, t, J 5.0 Hz), 3.13 (2H, t, J 7.6 Hz), 2.96 (2H, t, J 5.0 Hz), 2.80 (2H, t, J 5.0 Hz), 2.77-2.73 (2H, m), and 2.46 (3H, s).

reactant | 5-methyl-1H-indole-3-propanoic acid | CC=1C=C2C(=CNC2=CC1)CCC(=O)O | C12H13NO2
reactant | (2-methoxyphenyl)piperazine hydrochloride | Cl.COC1=C(C=CC=C1)N1CCNCC1
product | 4-(2-Methoxyphenyl) 1-[3-(5-methyl-1H-indol-3-yl)-1-oxopropyl]piperazine | COC1=C(C=CC=C1)N1CCN(CC1)C(CCC1=CNC2=CC=C(C=C12)C)=O | C23H27N3O2
